US07449486B2
Step E: Preparation of (S)-1-((S)-2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-2-methoxypropan-1-one:
To a solution of (S)-1-((S)-2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-2-hydroxypropan-1-one (41 mg, 0.095 mmol) in DMF (2 mL) at 0° C. was added methyl iodide (50 μL, 0.48 mmol) followed by sodium hydride (10 mg, 60%). After stirring at 0° C. for 30 minutes and room temperature for 3 hours, the mixture was treated with saturated NH4Cl (20 mL) and extracted with ethyl acetate (3×20 mL). The combined organic phases were washed with water (6×10 mL) and brine (10 mL), dried over Na2SO4, filtered, and concentrated under reduced pressure to provide the product (40 mg, 94%) as a yellow oil.

reactant | (S)-1-((S)-2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-2-hydroxypropan-1-one | 0.095 mmol, 41 mg | N(=[N+]=[N-])CCC[C@]1(SC(=NN1C([C@H](C)O)=O)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C20H19F2N5O2S
reactant | methyl iodide | 0.48 mmol, 50 μL | CI | CH3I
reactant | sodium hydride | 10 mg | [H-].[Na+]
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (S)-1-((S)-2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-2-methoxypropan-1-one | 40 mg, 94% | N(=[N+]=[N-])CCC[C@]1(SC(=NN1C([C@H](C)OC)=O)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C21H21F2N5O2S
